US03931226
9-Chloro-11-phenyl-2,4,5,11-tetrahydro-3H-1,3-diazepino[1,2-a]indol-11-ol
2-Amino-5-chloro-3-phenyl-3H-indol-3-ol (5.16 g) was heated under reflux with 1,4-dibromobutane (4.32 g) for 24 hours. After cooling the solid was filtered off affording 1.88 g of the title compound as its hydrobromide, m.p. 298°-300°C (decomp.) after recrystallization from methanol/ethyl acetate.

reactant | 2-Amino-5-chloro-3-phenyl-3H-indol-3-ol | 5.16 g | NC1=NC2=CC=C(C=C2C1(O)C1=CC=CC=C1)Cl | C14H11ClN2O
reactant | 1,4-dibromobutane | 4.32 g | BrCCCCBr | C4H8Br2
product | 9-Chloro-11-phenyl-2,4,5,11-tetrahydro-3H-1,3-diazepino[1,2-a]indol-11-ol | 1.88 g | ClC1=CC=2C(C=3N(C2C=C1)CCCCN3)(O)C3=CC=CC=C3 | C18H17ClN2O
